US05428037
A mixture of 1,5-dimethyl-4-hydroxymethyl-2-(4-trifluoromethylphenyl)imidazole (0.5 g) and manganese dioxide (2 g) in 20 ml of chloroform was refluxed for 24 hours. A further 2 g of manganese dioxide was added, and the mixture refluxed for a further 3 hours. The mixture was cooled, the solid material filtered off, and washed with methylene chloride. The solvent was removed from the filtrate under reduced pressure, to yield 0.5 g of 1,5-dimethyl-4-formyl-2-(4-trifluoromethylphenyl)imidazole, m.p. 144° C.

reactant | 1,5-dimethyl-4-hydroxymethyl-2-(4-trifluoromethylphenyl)imidazole | 0.5 g | CN1C(=NC(=C1C)CO)C1=CC=C(C=C1)C(F)(F)F | C13H13F3N2O
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 2 g | [O-2].[O-2].[Mn+4]
catalyst | manganese dioxide | 2 g | [O-2].[O-2].[Mn+4]
product | 1,5-dimethyl-4-formyl-2-(4-trifluoromethylphenyl)imidazole | 0.5 g | CN1C(=NC(=C1C)C=O)C1=CC=C(C=C1)C(F)(F)F | C13H11F3N2O
